US06218392B1
6-Chloro-4-(3-pyridylmethyl)-1(2H)-phthalazinone
5-Chloro-3-(pyrid-3-yl)methylenephthalide (2.68 g) was dissolved in 100 ml of ethanol, followed by the addition of 2.0 ml of hydrazine monohydrate. The obtained mixture was heated under reflux for 4 hours, followed by the addition of 200 ml of water. The resulting mixture was neutralized with dilute hydrochloric acid to precipitate crystals, which were recovered by filtration to give 1.87 g of the title compound as a yellow powder.

reactant | 5-Chloro-3-(pyrid-3-yl)methylenephthalide | 2.68 g | ClC=1C=C2C(OC(=O)C2=CC1)=CC=1C=NC=CC1 | C14H8ClNO2
reactant | hydrazine monohydrate | 2.0 ml | O.NN
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Chloro-4-(3-pyridylmethyl)-1(2H)-phthalazinone | 1.87 g | ClC=1C=C2C(=NNC(C2=CC1)=O)CC=1C=NC=CC1 | C14H10ClN3O
